US09169203B2
Step 3: Synthesis of 4-(methylsulfinyl)-1-(octylamino)-1-oxobutan-2-yl acetate.
To a solution of 4-(methylthio)-1-(octylamino)-1-oxobutan-2-yl acetate (6.33 g, 20.86 mmol) in dichloromethane (200 mL) at 0° C. was added mCPBA (77%, 4.67 g, 20.86 mmol). The resulting mixture was allowed to warm to room temperature with stirring overnight. The reaction was washed with saturated sodium bicarbonate (3×100 mL), 1N HCl (1×100 mL), and brine (1×100 mL). The organic layer was dried over magnesium sulfate, filtered and evaporated to give a yellow oil (6.7 g, 100%). m/z 320 (MH+).

reactant | 4-(methylthio)-1-(octylamino)-1-oxobutan-2-yl acetate | 20.86 mmol, 6.33 g | C(C)(=O)OC(C(=O)NCCCCCCCC)CCSC | C15H29NO3S
reactant | mCPBA | 20.86 mmol, 4.67 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 4-(methylsulfinyl)-1-(octylamino)-1-oxobutan-2-yl acetate | 6.7 g, 100% | C(C)(=O)OC(C(=O)NCCCCCCCC)CCS(=O)C | C15H29NO4S
